US06458952B1
EX-1C) A solution of 5-amino-1-Benzyl-3-methoxycarbonylmethyl-2,4(1H,3H) pyrimidinedione (EX-1B; 3.12 g, 10.77 mmol) in 18.0 mL of tetrahydrofuran and dimethylformamide (1:1, 0.62M) was added N-methyl morpholine (3.60 mL, 32.74 mmol) in one portion at room temperature. The resulting mixture was cooled to 0° C. in an ice bath and was allowed to stir for 15 minutes. A solution of benzylsulfonyl chloride (2.26 g, 11.86 mmol) in 18.0 mL tetrahydrofuran was added drop wise over a 30 minute period. After the addition was complete the reaction was stirred for 3 hours at 0° C. The reaction mixture was diluted with ethyl acetate (250.0 mL) and washed with 1N HCl ((2×50 mL), saturated NaHCO3 (2×50 mL), and brine (2×50 mL). The organic solution was dried (MgSO4), filtered and concentrated. Trituration with ethyl acetate and hexanes gave pure 1-Benzyl-3-methoxycarbonylmethyl-5-[[(phenylmethyl)sulfonyl]amino]-2,4(1H ,3H)pyrimidinedione (EX-1C) in 74% yield as a white solid: 1H NMR (300 MHz, DMSO) δ9.16 (s, 1H), 8.02 (s, 1H), 7.43-7.37 (m, 10H ), 5.01 (s, 2H), 4.65 (s, 2H), 4.45 (s, 2H), 3.69 (s, 3H);

reactant | 5-amino-1-Benzyl-3-methoxycarbonylmethyl-2,4(1H,3H) pyrimidinedione | 10.77 mmol, 3.12 g | NC=1C(N(C(N(C1)CC1=CC=CC=C1)=O)CC(=O)OC)=O | C14H15N3O4
reactant | N-methyl morpholine | 32.74 mmol, 3.60 mL | CN1CCOCC1 | C5H11NO
reactant | benzylsulfonyl chloride | 11.86 mmol, 2.26 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | tetrahydrofuran | 18.0 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 0.62M | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 18.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250.0 mL | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-3-methoxycarbonylmethyl-5-[[(phenylmethyl)sulfonyl]amino]-2,4(1H ,3H)pyrimidinedione | 74% yield | C(C1=CC=CC=C1)N1C(N(C(C(=C1)NS(=O)(=O)CC1=CC=CC=C1)=O)CC(=O)OC)=O | C21H21N3O6S
